Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Shellfish Derived / Demerol / Topamax
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ presents with acute onset of left lower quadrant
abdominal pain since ___ afternoon. On ___ he had a large
loose bowel movement with substantial amount of gas and severe
crampy LLQ pain. He presented to the ED at an OSH. Per pt, a CT
scan showed diverticulosis without diverticulitis. However
without other explanation for his pain he was discharged on
levaquin and flagyl as well as percocet. The pain continued to
increase over the past week, despite antibiotics and limiting
himself to a clear liquid diet. He presented to his PCP today 
who
recommended that he go to the emergency department. He reports
last BM was on ___, although usually he has daily BM's. He
continues to pass flatus. Mild nausea on ___ but none since;
denies emesis. Denies fevers/chills/sick contacts.
 
Past Medical History:
-Atrial fibrillation status post two prior pulmonary vein 
isolation in ___ and ___ in ___ with subsequent 
recurrences followed by mini-maze with left atrial excision in 
___ at ___.
-AV nodal ablation at ___ in ___ for rate control currently
on Dofetilide as well as warfarin.
-Multiple prior TIAs and/or CVAs.
-Coronary artery disease status post PCI of the right coronary 
artery in ___.
-Sick sinus syndrome status post dual-chamber pacemaker 
implantation in ___, which was placed at an outside facility.
-Anxiety, panic d/o, and bipolar disorder.
-Sleep-disordered breathing on CPAP.
-Recent admission to the ___ for question of syncope 
and headaches thought to be related to complex migraines as 
determined by the neurology service.
-subarachnoid hemorrhage in ___
-embolic strokex3 in ___ and 2 in ___
-TIA- pt reports >4 dozen. Last in ___
-frequent sinus infections and rhinoplasty with deviated septal 
repair in pt___s ___
-RLS- acting up in last ___ wks
-OA of knees and hips
-Sleep-disordered breathing, on CPAP
-penile prosthesis ___

 
Social History:
___
Family History:
Notable for a mother who died at age ___ with breast cancer and 
had diabetes mellitus. His father died at age ___ from an 
automobile accident and survived a ruptured aortic aneurysm per 
patient report. States every male on his maternal side died of a 
"heart condition" prior to ___ yrs old. Has 2 sisters aged ___ and 
healthy and ___ with breast cancer.

 
Physical Exam:
Admission physical Exam:
98.3 80 136/78 16 98% 
Gen: A&Ox3, NAD 
CV: RRR
Pulm: CTAB
Abd: Soft, v. TTP LLQ with some TTP LUQ, no rebound, voluntary 
gaurding. 
DRE: Tone normal, guiac negative

Discharge physical exam:
Gen: A&Ox3, NAD
CV: RRR
Pulm: CTAB
Abd: soft, slightly TTP in LLQ, no rebound, no guarding, no 
distention 
 
Pertinent Results:
___ 06:15AM BLOOD WBC-7.9 RBC-4.69 Hgb-15.1 Hct-45.3 MCV-97 
MCH-32.2* MCHC-33.3 RDW-14.0 Plt ___
___ 05:32AM BLOOD WBC-7.3 RBC-4.71 Hgb-15.0 Hct-45.6 MCV-97 
MCH-31.9 MCHC-33.0 RDW-13.8 Plt ___
___ 12:37PM BLOOD WBC-9.1 RBC-5.20 Hgb-16.5 Hct-50.7 MCV-98 
MCH-31.8 MCHC-32.6 RDW-13.9 Plt ___
___ 06:15AM BLOOD ___
___ 06:15AM BLOOD Glucose-96 UreaN-6 Creat-0.9 Na-139 K-3.8 
Cl-104 HCO3-28 AnGap-11
___ 05:32AM BLOOD Glucose-80 UreaN-10 Creat-0.9 Na-141 
K-3.7 Cl-107 HCO3-26 AnGap-12
___ 12:37PM BLOOD Glucose-97 UreaN-14 Creat-1.0 Na-139 
K-4.1 Cl-103 HCO3-30 AnGap-10

CT A/P (___)
IMPRESSION:
1.  No evidence of acute intra-abdominal process.
2.  Fatty liver.
3.  Cystic lesion adjacent to the duodenum, likely a 
gastrointestinal
duplication cyst.
4.  Colonic diverticulosis without evidence of diverticulitis.

 
Brief Hospital Course:
Mr. ___ was admitted to the ___ service on ___ with 
symptoms of diverticulitis on exam. He had worsening LLQ pain 
over 1 week despite taking home antibiotics. His CT scan did not 
evidence of inflammation and he had a normal WBC. He was 
admitted to the service for serial exams, bowel rest, and IV 
antibiotics. Over the course of his admission, he received 1 
dose of Unasyn. His abdominal pain began to improve on HD#2 and 
his WBC remained normal. He was started on a normal diet on HD#2 
and tolerated POs appropriately. He was discharged home on HD#3 
with minimal tenderness. He had previous scheduled appointments 
with his GI doctor and PMD with whom he will follow-up after 
discharge about his abdominal pain and chronic diarrhea.  Stool 
samples for culture and C. difficile were collected for these 
appointments. 
 
Medications on Admission:
alprazolam 0.5 mg b.i.d., bupropion 300 mg daily, clonazepam
0.5 mg q.h.s., dofetilide 500 mcg b.i.d., Lexapro 20 mg daily,
Vytorin 10 mg/20 mg daily, lisinopril 10 mg daily, lithium
carbonate 300 mg daily, propranolol 20 mg b.i.d. for migraines,
warfarin daily as directed, aspirin 81 mg daily
 
Discharge Medications:
1. ALPRAZolam 0.5 mg PO BID 
2. Aspirin 81 mg PO DAILY 
3. BuPROPion (Sustained Release) 150 mg PO BID 
4. Clonazepam 0.5 mg PO QHS 
5. Dofetilide 500 mcg PO Q12H arrythmia 
6. Escitalopram Oxalate 20 mg PO DAILY 
7. Ezetimibe 10 mg PO DAILY 
8. Lisinopril 10 mg PO DAILY 
9. Lithium Carbonate 300 mg PO DAILY 
10. Propranolol 80 mg PO BID 
11. Simvastatin 20 mg PO DAILY 
12. Warfarin 4 mg PO ONCE Duration: 1 Doses 
13. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every six (6) hours 
Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal pain 

 
Discharge Condition:
Mental status: awake, alert, oriented 
Ambulatory: independent
Condition: good

 
Discharge Instructions:
Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. 

Avoid driving or operating heavy machinery while taking pain 
medications.
 
Followup Instructions:
___